US07049438B2
A solution of di-tert-butyl azodicarboxylate (1.7 g) in methylene chloride (5 ml) was added to a stirred mixture of 5-hydroxy-7-methoxy-3-pivaloyloxymethyl-3,4-dihydroquinazolin-4-one (1.5 g), triphenylphosphine (1.9 g), 4-hydroxy-1-methylpiperidine (0.675 g) and methylene chloride (20 ml) which had been cooled to 5° C. The mixture was stirred at ambient temperature for 1 hour. The mixture was evaporated and the residue was purified by column chromatography on silica using a 9:10:1 mixture of methylene chloride, ethyl acetate and a saturated methanolic ammonia solution as eluent. The material so obtained was triturated under diethyl ether. The resultant solid was washed with diethyl ether and dried under vacuum to give 7-methoxy-5-(N-methylpiperidin-4-yloxy)-3-pivaloyloxymethyl-3,4-dihydroquinazolin-4-one (1.75 g); NMR Spectrum: (CDCl3): 1.2 (s, 9H), 2.05 (br s, 4H), 2.3 (s, 3H), 2.3–2.42 (m, 2H), 2.7–2.8 (m, 2H), 3.9 (s, 3H), 4.48 (m, 1H), 5.9 (s, 2H), 6.5 (d, 1H), 6.71 (d, 1H), 8.18 (s, 1H).

reactant | di-tert-butyl azodicarboxylate | 1.7 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | 5-hydroxy-7-methoxy-3-pivaloyloxymethyl-3,4-dihydroquinazolin-4-one | 1.5 g | OC1=C2C(N(C=NC2=CC(=C1)OC)COC(C(C)(C)C)=O)=O | C15H18N2O5
reactant | triphenylphosphine | 1.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-hydroxy-1-methylpiperidine | 0.675 g | OC1CCN(CC1)C | C6H13NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7-methoxy-5-(N-methylpiperidin-4-yloxy)-3-pivaloyloxymethyl-3,4-dihydroquinazolin-4-one | 1.75 g | COC1=CC(=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC1CCN(CC1)C | C21H29N3O5
